US08067445B2
Step 4: [2-Bromo-5-(1-hydroxy-1-methyl-ethyl)-benzyl]-ethyl-carbamic acid benzyl ester
To 2-(4-bromo-3-bromomethyl-phenyl)-propan-2-ol (0.255 g, 0.83 mmol) and ethyl-carbamic acid benzyl ester (0.446 g, 2.49 mmol) in DMF (15 mL) was added sodium hydride (60% in mineral oil; 0.103 g, 2.57 mmol), and the reaction was stirred for 30 minutes. The mixture was quenched with H2O and worked-up. The residue was purified by silica gel chromatography (0-40% EtOAc in hexanes) to give the title compound.

reactant | 2-(4-bromo-3-bromomethyl-phenyl)-propan-2-ol | 0.83 mmol, 0.255 g | BrC1=C(C=C(C=C1)C(C)(C)O)CBr | C10H12Br2O
reactant | ethyl-carbamic acid benzyl ester | 2.49 mmol, 0.446 g | C(C1=CC=CC=C1)OC(NCC)=O | C10H13NO2
reactant | sodium hydride | 2.57 mmol, 0.103 g | [H-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | [2-Bromo-5-(1-hydroxy-1-methyl-ethyl)-benzyl]-ethyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC)CC1=C(C=CC(=C1)C(C)(C)O)Br)=O | C20H24BrNO3
